US08466282B2
Tert-butyl (3S,5R)-3-{{{1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}-5-(1,2,4-oxadiazol-3-yl)piperidine-1-carboxylate
Hydroxylamine hydrochloride (383 mg) was dissolved in dimethyl sulfoxide (10 ml), and the mixture was stirred at 40° C. for 30 min. Sodium hydrogen carbonate (463 mg) was added, and the mixture was stirred at 50° C. for 1 hr. A solution of tert-butyl (3R,5S)-3-cyano-5-{{{1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}piperidine-1-carboxylate (282 mg) in dimethyl sulfoxide (10 ml) was further added, and the mixture was stirred at 90° C. for 3 hr. The reaction mixture was allowed to cool to room temperature, diluted with water, and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was dissolved in trimethyl orthoformate (5 ml) and the mixture was stirred at 100° C. for 4 hr. The reaction mixture was concentrated under reduced pressure, and the residue was subjected to silica gel chromatography, and a fraction eluted with ethyl acetate-hexane (5:95-3:7) was concentrated under reduced pressure to give the object product (230 mg).

reactant | Hydroxylamine hydrochloride | 383 mg | Cl.NO
reactant | Sodium hydrogen carbonate | 463 mg | C(O)([O-])=O.[Na+]
reactant | tert-butyl (3R,5S)-3-cyano-5-{{{1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}piperidine-1-carboxylate | 282 mg | C(#N)[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)OC(C)(C)C | C28H41N5O4
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | Tert-butyl (3S,5R)-3-{{{1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}-5-(1,2,4-oxadiazol-3-yl)piperidine-1-carboxylate | 230 mg | COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C2=NOC=N2)C(=O)OC(C)(C)C)CC(C)C | C29H42N6O5
